US08334287B2
4-[4-(3-chloro-phenylethynyl)-2,5-dimethyl-imidazol-1-yl]-1-methyl-1H-pyridin-2-one
The title compound, white crystalline solid, MS: m/e=338.1, 340.0 (M+H+), was prepared in accordance with the general method of example 3 from 4-[4-(3-chloro-phenylethynyl)-2,5-dimethyl-imidazol-1-yl]-1H-pyridin-2-one and methyl iodide.

reactant | 4-[4-(3-chloro-phenylethynyl)-2,5-dimethyl-imidazol-1-yl]-1H-pyridin-2-one | ClC=1C=C(C=CC1)C#CC=1N=C(N(C1C)C1=CC(NC=C1)=O)C | C18H14ClN3O
reactant | methyl iodide | CI | CH3I
product | 4-[4-(3-chloro-phenylethynyl)-2,5-dimethyl-imidazol-1-yl]-1-methyl-1H-pyridin-2-one | ClC=1C=C(C=CC1)C#CC=1N=C(N(C1C)C1=CC(N(C=C1)C)=O)C | C19H16ClN3O
